US06440995B1
2-(7-Methyl-2-phenyl-quinolin-4-ylamino)-ethanol hydrochloride
The title compound, m.p. 234-236° C., and MS: m/e=278 (M+), was prepared from 4-chloro-7-methyl-2-phenyl-quinoline and ethanolamine.

reactant | 4-chloro-7-methyl-2-phenyl-quinoline | ClC1=CC(=NC2=CC(=CC=C12)C)C1=CC=CC=C1 | C16H12ClN
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-(7-Methyl-2-phenyl-quinolin-4-ylamino)-ethanol hydrochloride | Cl.CC1=CC=C2C(=CC(=NC2=C1)C1=CC=CC=C1)NCCO | InChI=1S/C18H18N2O.ClH/c1-13-7-8-15-17(19-9-10-21)12-16(20-18(15)11-13)14-5-3-2-4-6-14;/h2-8,11-12,21H,9-10H2,1H3,(H,19,20);1H
